US05023261
To a solution of 0.35 ml of formic acid in 10 ml of dry chloroform were added 1.5 g of 1,1'-carbonyldiimidazole and 1.74 ml of methyl iodide, and the mixture was stirred at room temperature for 2.5 hours. To the reaction mixture was added a solution of 0.5 g of 3,9-dihydroxy-5H-benzofuro[3,2-c]quinolin-6-one in 10 ml of dry N,N-dimethylformamide, and the mixture was stirred overnight at room temperature. To the reaction mixture was added 30 ml of water, and the precipitates were collected by filtration, washed with ethyl acetate, and dried at 60° C under reduced pressure to obtain 0.54 g of 3,9-bis(formyloxy)-5H-benzofuro[3,2-c]quinolin-6-one.

reactant | formic acid | 0.35 ml | C(=O)O | CH2O2
reactant | 1,1'-carbonyldiimidazole | 1.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methyl iodide | 1.74 ml | CI | CH3I
reactant | 3,9-dihydroxy-5H-benzofuro[3,2-c]quinolin-6-one | 0.5 g | OC1=CC=C2C3=C(C(NC2=C1)=O)C1=C(O3)C=C(C=C1)O | C15H9NO4
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3,9-bis(formyloxy)-5H-benzofuro[3,2-c]quinolin-6-one | 0.54 g | C(=O)OC1=CC=C2C3=C(C(NC2=C1)=O)C1=C(O3)C=C(C=C1)OC=O | C17H9NO6
